US08252781B2
Under an argon atmosphere, a solution of 2-adamantanone (1.00 g, 6.70 mmol) in ethanol (40 mL) was added with benzylcarbazate (1.11 g, 6.70 mmol) at room temperature and the resultant was stirred at 80° C. for 12 hours. The reaction solution was concentrated in vacuo, and benzyl 2-(adamantan-2-ylidene)hydrazinecarboxylate (2.03 g, quant.) was obtained as a white crystalline powder.

reactant | 2-adamantanone | 6.70 mmol, 1.00 g | C12C(C3CC(CC(C1)C3)C2)=O | C10H14O
reactant | benzylcarbazate | 6.70 mmol, 1.11 g | C(C1=CC=CC=C1)OC(NN)=O | C8H10N2O2
solvent | ethanol | 40 mL | C(C)O | C2H6O
product | benzyl 2-(adamantan-2-ylidene)hydrazinecarboxylate | 2.03 g | C12C(C3CC(CC(C1)C3)C2)=NNC(=O)OCC2=CC=CC=C2 | C18H22N2O2
